US07385091B2
A 1-liter, three-necked, glass flask equipped with a stirrer, a thermometer and a reflux condenser was charged with 296.5 g (1 mol) of 1-cyclohexyl-4,4,4-trifluoro-3-(trifluoromethyl)butane-1,3-diol, 170.8 g (1.1 moles) of methacrylic anhydride, 1.0 g of trifluoromethanesulfonic acid, and 0.1 g of 2-methoxyphenothiazine as a polymerization inhibitor, followed by heating at 130° C. with stirring. 3 hr later, when conversion of the raw material 1-cyclohexyl-4,4,4-trifluoro-3-(trifluoromethyl)butane-1,3-diol became 99% or higher, the reaction was terminated. The reaction mixture was cooled down to room temperature, followed by distillation under reduced pressure to collect a distillate having a boiling point range of 112-115° C./0.09 kPa. With this, there were obtained 312.8 g of the target 1-cyclohexyl-4,4,4-trifluoro-3-hydroxy-3-(trifluoromethyl)butyl 2-methylacrylate (purity: 96%). The yield was 90%.

reactant | 1-cyclohexyl-4,4,4-trifluoro-3-(trifluoromethyl)butane-1,3-diol | 1 mol, 296.5 g | C1(CCCCC1)C(CC(C(F)(F)F)(O)C(F)(F)F)O | C11H16F6O2
reactant | methacrylic anhydride | 1.1 moles, 170.8 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
reactant | trifluoromethanesulfonic acid | 1.0 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | 2-methoxyphenothiazine | 0.1 g | COC1=CC=2NC3=CC=CC=C3SC2C=C1 | C13H11NOS
product | 1-cyclohexyl-4,4,4-trifluoro-3-hydroxy-3-(trifluoromethyl)butyl 2-methylacrylate | yield was 90% | CC(C(=O)OC(CC(C(F)(F)F)(C(F)(F)F)O)C1CCCCC1)=C | C15H20F6O3
